US06855710B2
(Z)-3-{1-[4-(4-hydroxypiperidinomethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone
Prepared analogously to Example 89 from 3-(1-ethoxy-1-phenyl-methylidene)-5-nitro-2-indolinone and 4-(4-hydroxypiperidinomethyl)-aniline in DMF.

reactant | 3-(1-ethoxy-1-phenyl-methylidene)-5-nitro-2-indolinone | C(C)OC(C1=CC=CC=C1)=C1C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C17H14N2O4
reactant | 4-(4-hydroxypiperidinomethyl)-aniline | OC1CCN(CC1)CC1=CC=C(N)C=C1 | C12H18N2O
solvent | DMF | CN(C)C=O | C3H7NO
product | (Z)-3-{1-[4-(4-hydroxypiperidinomethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone | OC1CCN(CC1)CC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C27H26N4O4
